US06686369B1
1.8 g (4.4 mmol) of methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-diphenylbutyrate were dissolved in 25 ml of dioxane, and 26.5 ml (26.5 mmol) of a 1M KOH solution were added, and the mixture was stirred at 90° C. for 6 hours. The mixture was then concentrated, taken up in water and extracted three times with ethyl acetate. The combined organic phases were dried over MgSO4 and evaporated. The residue was recrystallized from ethanol. 1.12 g (65%) of 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-diphenylbutyric acid of melting point 229-234° C. were obtained.

reactant | methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-diphenylbutyrate | 4.4 mmol, 1.8 g | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H24N2O5
reactant | KOH | 1M | [OH-].[K+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-diphenylbutyric acid | 1.12 g, 65% | COC1=NC(=NC(=C1)OC)OC(C(=O)O)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22N2O5
